US04237138
Lithium borohydride (3.24 g.) was added portionwise to a solution of α-(N-acetyl-4-piperidinoxy) phenylacetic acid, ethyl ester (11.2 g.) in dry tetrahydrofuran (200 ml.). When the hydrogen evolution had subsided the reaction mixture was heated under reflux for 4 hours. Water was added to the cooled solution, the solvent evaporated in vacuo, then the residue taken up in chloroform (200 ml.) and washed with dilute hydrochloric acid, water and brine. The chloroform extract was dried (MgSO4) and the solvent evaporated in vacuo. Thin layer chromatography analysis of the product indicated that reduction was incomplete, therefore the product in tetrahydrofuran (100 ml.) was treated with a further quantity of lithium borohydride (3.24 g.) and heated under reflux for 4 hours. The reaction mixture was treated as above to give N-acetyl-4-(2-hydroxy-1-phenyl-ethoxy) piperidine (9.5 g.) as an oil which solidified on standing. A sample crystallized from ether and had an m.p. of 92°-94° C.

reactant | Lithium borohydride | 3.24 g | [BH4-].[Li+]
reactant | α-(N-acetyl-4-piperidinoxy) phenylacetic acid, ethyl ester | 11.2 g | C(C)(=O)N1CCC(CC1)OC(C(=O)OCC)C1=CC=CC=C1 | C17H23NO4
reactant | hydrogen | [H][H] | H2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-acetyl-4-(2-hydroxy-1-phenyl-ethoxy) piperidine | 9.5 g | C(C)(=O)N1CCC(CC1)OC(CO)C1=CC=CC=C1 | C15H21NO3
